US05736539
1-tert-butoxycarbonyl-2(S)-n-butyl-4-(8-quinolinylcarbonyl)piperazine
The title compound was prepared according to the procedure described in Example 1, Step A, except using 1-tert-butoxycarbonyl-2(S)-n-butyl-piperazine (0.261 g, 1.078 mmol), 8-quinoline carboxylic acid (0.187 g, 1.078 mmol), EDC.HCl (0.217 g, 1.13 mmol), HOBT (0.157g, 1.02 mmol) in DMF at pH 7 (adjusted with triethylamine). The crude product was chromatographed on silica gel with 5% methanol in chloroform. The title compound was obtained as an oil (0.253 g).

reactant | 1-tert-butoxycarbonyl-2(S)-n-butyl-piperazine | 1.078 mmol, 0.261 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCC | C13H26N2O2
reactant | 8-quinoline carboxylic acid | 1.078 mmol, 0.187 g | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | EDC.HCl | 1.13 mmol, 0.217 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.02 mmol, 0.157g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-tert-butoxycarbonyl-2(S)-n-butyl-4-(8-quinolinylcarbonyl)piperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C=1C=CC=C2C=CC=NC12)CCCC | C23H31N3O3
